* c:\users\sabarishmohan\esim-workspace\cd4077b_test\cd4077b_test.cir

.include cd4077b.sub
x1 a b o1 o2 net-_x1-pad5_ net-_x1-pad6_ gnd net-_x1-pad8_ net-_x1-pad9_ o3 o4 net-_x1-pad12_ net-_x1-pad13_ net-_x1-pad14_ cd4077b
v1  a gnd pulse(0 5 0 0 0 5 10)
v2  b gnd pulse(5 0 0 0 0 2 4)
v3  net-_x1-pad5_ gnd pulse(0 5 0 0 0 1 3)
v4  net-_x1-pad6_ gnd pulse(5 0 0 0 0 4 8)
* u3  o1 plot_v1
* u4  o2 plot_v1
v5  net-_x1-pad8_ gnd pulse(5 0 0 0 0 5 10)
v6  net-_x1-pad9_ gnd pulse(5 0 0 0 0 2 5)
v7  net-_x1-pad12_ gnd pulse(0 5 0 0 0 4 8)
v8  net-_x1-pad13_ gnd pulse(0 5 0 0 0 3 6)
* u5  o3 plot_v1
* u6  o4 plot_v1
v9 net-_x1-pad14_ gnd  dc 5
* u1  a plot_v1
* u2  b plot_v1
.tran 250e-03 10e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(o1)
plot v(o2)
plot v(o3)
plot v(o4)
plot v(a)
plot v(b)
.endc
.end
